US08236845B2
(2S)-[5-(3,5-Dimethyl-1H-pyrazol-4-yl)-1,2,3,4-tetrahydro-naphthalen-2-yl]-dimethyl-amine dihydrochloride
Then, HCl (0.750 mL, 2 M solution in Et20, 1.5 mmol) was dropwise added to a suspension of (2S)-[5-(3,5-Dimethyl-1H-pyrazol-4-yl)-1,2,3,4-tetrahydro-naphthalen-2-yl]-dimethyl-amine (129 mg, 0.48 mmol) in Et2O (5 mL). The reaction mixture was stirred at room temperature for 5 h and then the solvent was concentrated off. The resulting solid was suspended in Et2O (5 mL) and concentrated, in order to remove excess of HCl. This operation was done for three times, to give 119 mg of the title product (white solid, 81% yield).

reactant | HCl | 1.5 mmol, 2 M, 0.750 mL | Cl | ClH
reactant | (2S)-[5-(3,5-Dimethyl-1H-pyrazol-4-yl)-1,2,3,4-tetrahydro-naphthalen-2-yl]-dimethyl-amine | 0.48 mmol, 129 mg | CC1=NNC(=C1C1=C2CC[C@@H](CC2=CC=C1)N(C)C)C | C17H23N3
solvent | Et2O | 5 mL | CCOCC | C4H10O
product | (2S)-[5-(3,5-Dimethyl-1H-pyrazol-4-yl)-1,2,3,4-tetrahydro-naphthalen-2-yl]-dimethyl-amine dihydrochloride | 119 mg, 81% yield | Cl.Cl.CC1=NNC(=C1C1=C2CC[C@@H](CC2=CC=C1)N(C)C)C | InChI=1S/C17H23N3.2ClH/c1-11-17(12(2)19-18-11)16-7-5-6-13-10-14(20(3)4)8-9-15(13)16;;/h5-7,14H,8-10H2,1-4H3,(H,18,19);2*1H/t14-;;/m0../s1
